US09326987B2
N-[5-(4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1H-indazol-6-yl)-2-(methyloxy)-3-pyridinyl]methanesulfonamide
N-[5-[4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide (95 mg, 0.143 mmol) was dissolved in 1,4-dioxane (1 ml) and sodium hydroxide (1 ml, 0.143 mmol) was added. The mixture was stirred at room temperature for 1 h. The mixture was dried down under a stream of nitrogen and the residue partitioned between ethyl acetate (5 ml) and saturated ammonium chloride (2 ml). The organic layer was separated, dried by passing through a hydrophobic frit and the solvent removed in vacuo to give an orange oil. This was triturated with cyclohexane to give the title compound as an orange solid (26 mg).

reactant | N-[5-[4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 0.143 mmol, 95 mg | C1[C@H]2N(CCN1CC1=NN=C(O1)C1=C3C=NN(C3=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1)CCC2 | C30H32N8O6S2
reactant | sodium hydroxide | 0.143 mmol, 1 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-[5-(4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1H-indazol-6-yl)-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 26 mg | C1[C@H]2N(CCN1CC1=NN=C(O1)C1=C3C=NNC3=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)CCC2 | C24H28N8O4S
